US07626039B2
2-tert-butoxycarbonylamino-acrylic acid benzyl ester: Rac-serine (50 g, 0.475 mol) in dioxane (500 mL) was combined with sodium hydroxide (38 g, 0.98 mol) in water (200 mL) and cooled to 0° C. Boc anhydride (105 g, 0.48 mol) was added dropwise and the reaction was stirred at rt overnight. The reaction mixture was concentrated to remove dioxane and the aqueous layer was washed with petroleum ether. The aqueous layer was acidified to pH 4 with citric acid solution and extracted with ethyl acetate. The combined organic layers were washed with water and brine and concentrated to give N-boc-dl-serine (79 g, 81%). To this intermediate (14 g, 0.068 mol) in DMF (140 mL) was added cesium carbonate (13.2 g, 0.041 mol) and the reaction mixture was stirred at rt for 30 min under a nitrogen atmosphere. Benzyl bromide (11.7 g, 0.07 mol) was added dropwise at 0° C. and the reaction was stirred at rt overnight. The reaction mixture was quenched with water and extracted with ethyl acetate. The combined organic layers were washed with brine and concentrated. The crude product obtained was purified by flash chromatography on silica gel using chloroform as eluent to give the benzyl ester intermediate (17 g, 85%). To the benzyl ester (10 g, 0.0339 mol) in DCM (150 mL) at 0° C. under a nitrogen atmosphere was added mesyl chloride (5 g, 0.0435 mol). Triethyl amine (10 g, 0.0990 mol) was then added dropwise and the reaction was stirred at rt for 1 h. The reaction mixture was washed with 1% sodium bisulphate solution, dried over anhydrous Na2SO4, and concentrated to give 84A (10 g).

reactant | 2-tert-butoxycarbonylamino-acrylic acid benzyl ester | C(C1=CC=CC=C1)OC(C(=C)NC(=O)OC(C)(C)C)=O | C15H19NO4
reactant | Rac-serine | 0.475 mol, 50 g | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | sodium hydroxide | 0.98 mol, 38 g | [OH-].[Na+]
reactant | Boc anhydride | 0.48 mol, 105 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 500 mL | O1CCOCC1 | C4H8O2
solvent | water | 200 mL | O | H2O
product | N-boc-dl-serine | 79 g, 81% | C(=O)(OC(C)(C)C)NC(CO)C(=O)O | C8H15NO5
